US06620921B1
1,2,3,5,6-Penta-O-propanoyl-β-D-glucofuranose
D-Glucose (5.0 g, 27.8 mmol), boric acid (3.5 g, 56.9 mmol, 2.05 eq.) and propanoic acid (75 mL) were stirred at 70° C. for one hour. By this time, all the D-glucose had dissolved. Propanoic anhydride (75 mL) was added slowly and the resulting mixture was heated at 70° C. for 48 hours. The reaction mixture was diluted to 1000 mL with ice (100 g) and water and the mixture stirred vigorously for one hour. The resulting precipitate was collected by filtration and recrystallised twice from ethanol (20 mL) to give the title compound as white prisms (7.4 g, 58%); mp 74.5-75.5° C., [α]D22−30.8 (c 5.0, CHCl3). IR (CDCl3) 2987, 1740 cm−1. 1H NMR (CDCl3): δ 6.14 (s, 1H, H1), 5.42 (d, 1H, J=4.8 Hz, H3), 5.29 (ddd, 1H, J=9.4, 5.2, 2.5, Hz, H5), 5.10 (s, 1H, H2), 4.63 (dd, 1H, J=12.3, 2.5 Hz, H6a), 4.55 (dd, 1H, J=9.4, 4.7 Hz, H4), 4.10 (dd, 1H, J=12.3, 5.2 Hz, H6b), 2.40 (q, 2H, J=7.6 Hz), 2.38 (q, 2H, J=7.6 Hz), 2.37 (q, 2H, J=7.6 Hz), 2.34 (q, 2H, J=7.6 Hz), 2.26 (q, 2H, J=7.6 Hz) (5×CH2), 1.17 (t, 6H, J=7.6 Hz), 1.13 (t, 6H, J=7.6 Hz), 1.09 (t, 3H, J=7.6 Hz) (5×CH3) ppm. 13C NMR (CDCl3): δ 174.3, 173.4, 173.0, 172.9 (2) (5×C═O), 99.2 (C1), 80.2 (C4), 79.9 (C2), 73.2 (C3), 68.6 (C5), 63.3 (C6), 28.0, 27.7 (3), 27.6 (5×CH2), 9.4, 9.2 (2), 9.1 (2) (5×CH3) ppm. LRMS (FAB) 387 (M+-C3H5O2, 100%), 183 (24), 137 (25), 57 (52) m/z. HRMS (FAB): calcd for C21H32O11 (M+-H) 459.186360, found 459.186637. Anal: calcd for C21H32O11: C 54.78; H 7.00. Found: C 54.80; H 6.96.

reactant | D-Glucose | 27.8 mmol, 5.0 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | boric acid | 56.9 mmol, 3.5 g, 2.05 eq. | B(O)(O)O | BH3O3
reactant | propanoic acid | 75 mL | C(CC)(=O)O | C3H6O2
reactant | Propanoic anhydride | 75 mL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | O | H2O
product | 1,2,3,5,6-Penta-O-propanoyl-β-D-glucofuranose | 7.4 g, 58% | C(CC)(=O)O[C@H]1[C@H](OC(CC)=O)[C@@H](OC(CC)=O)[C@H](O1)[C@H](OC(CC)=O)COC(CC)=O | C21H32O11
